US07897619B2
tert-Butyl((1R)-4-(2-(6-isoquinolinylcarbonyl)hydrazino)-4-oxo-1-(4-(trifluoromethyl)benzyl)butyl)carbamate:
Isoquinoline-6-carboxylic acid (0.22 g, 1.3 mmol) (commercially available from AstaTech Product List (Order Number 62874)) and HATU (0.50 g, 1.3 mmol) were mixed in 10 mL DMF along with 0.21 mL DEA. The mixture was stirred at room temperature for 15 minutes. The mixture was added dropwise to a DMF solution of tert-butyl((1S)-3-hydrazino-1-(4-(trifluoromethyl)benzyl)propyl)carbamate (0.45 g, 1.2 mmol) and 0.21 mL of DEA in 10 mL DMF. The resulting mixture was stirred at room temperature for 1 hour. After the solvent was removed, the residue was dissolved in EtOAc and saturated aqueous sodium bicarbonate, and dried over sodium sulfate. The solvent was evaporated and the residue was triturated with DCM to provide the product as an off-white solid (0.45 g, 71%). LCMS (API-ES) m/z: 531 (M+H+).

reactant | Isoquinoline-6-carboxylic acid | 1.3 mmol, 0.22 g | C1=NC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | HATU | 1.3 mmol, 0.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl((1S)-3-hydrazino-1-(4-(trifluoromethyl)benzyl)propyl)carbamate | 1.2 mmol, 0.45 g | C(C)(C)(C)OC(N[C@H](CCNN)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H24F3N3O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-Butyl((1R)-4-(2-(6-isoquinolinylcarbonyl)hydrazino)-4-oxo-1-(4-(trifluoromethyl)benzyl)butyl)carbamate | 0.45 g, 71% | C(C)(C)(C)OC(N[C@H](CCC(=O)NNC(=O)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C27H29F3N4O4
